US07229986B2
(E)-3-(1-Acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-N,N-dimethyl-2-propen-1-amine
Triethyl silane (22.2 ml, 139 mmol) was added under a nitrogen atmosphere to a solution of 1-(1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-(dimethylamino)-1-propanone (5.00 g, 17.3 mmol) obtained in Reference Example 8 in trifluoroacetic acid, and then the mixture was stirred at room temperature for 5 days. After the solvent was distilled away under reduced pressure, ether was added to the residues which were then extracted with water. The aqueous layer was made basic with 8 N aqueous sodium hydroxide and then extracted with ethyl acetate. The extract was washed with a saturated saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by alumina column chromatography (developing solvent; hexane:ethyl acetate=1:1), whereby the title compound (2.74 g) was obtained as oily matter.

reactant | Triethyl silane | 139 mmol, 22.2 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 1-(1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-(dimethylamino)-1-propanone | 17.3 mmol, 5.00 g | C(C)(=O)N1CCCCC2=C1C=C(C=C2)C(CCN(C)C)=O | C17H24N2O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (E)-3-(1-Acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-N,N-dimethyl-2-propen-1-amine | C(C)(=O)N1CCCCC2=C1C=C(C=C2)/C=C/CN(C)C | C17H24N2O
